US09334263B2
To a solution of tert-butyl 4-(5-benzyl-4-methylpyrimidin-2-yl)piperazine-1-carboxylate (250 mg, 0.68 mmol) in dioxane (2 mL) was added 4 M HCl-dioxane (2 mL). The reaction mixture was stirred at RT for 2 h and then concentrated to afford crude 5-benzyl-4-methyl-2-(piperazin-1-yl)pyrimidine. MS (ES+) C16H20N4 requires: 268, found: 269 [M+H]+.

reactant | tert-butyl 4-(5-benzyl-4-methylpyrimidin-2-yl)piperazine-1-carboxylate | 0.68 mmol, 250 mg | C(C1=CC=CC=C1)C=1C(=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C21H28N4O2
reactant | HCl dioxane | 4 M, 2 mL | Cl.O1CCOCC1
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-benzyl-4-methyl-2-(piperazin-1-yl)pyrimidine | C(C1=CC=CC=C1)C=1C(=NC(=NC1)N1CCNCC1)C | C16H20N4
